US06376413B1
4-[3′,5′-di-t-butylphenyl]-2-methylindene
4-Chloro-2-methylindene (6.1 g, 37 mmol) and NiCl2(PPh3)2 (1.8 g, 2.8 mmol) were dissolved in 150 mL of Et2O. 3,5-Di-t-butylphenylmagnesium bromide (10 g, 37 mmol) as a Et2O solution was added to the solution and the reaction was stirred overnight at room temperature. After overnight stirring, the reaction was slowly quenched with H2O to neutralize unreacted Grignard. The solution was subsequently treated with 100 mL of 10% HCl(aq), neutralized with saturated sodium bicarbonate aqueous solution. The organic layer was dried with magnesium sulfate and the solvent was removed by rotary evaporation. The remaining residue was loaded onto a silica gel column and eluted with hexane. Yield was 4.6 g (40%).

reactant | 4-Chloro-2-methylindene | 37 mmol, 6.1 g | ClC1=C2C=C(CC2=CC=C1)C | C10H9Cl
reactant | 3,5-Di-t-butylphenylmagnesium bromide | 37 mmol, 10 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)[Mg]Br
solvent | Et2O | 150 mL | CCOCC | C4H10O
catalyst | NiCl2(PPh3)2 | 2.8 mmol, 1.8 g | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[3′,5′-di-t-butylphenyl]-2-methylindene | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C1=C2C=C(CC2=CC=C1)C | C24H30
